US09062005B2
Step A: Preparation of Methyl 2,4,6-trifluorobenzeneacetate
A solution of 2,4,6-trifluorobenzeneacetic acid (5.00 g, 26.3 mmol) in methanol (25 mL) was stirred at ambient temperature, and thionyl chloride (6 mL, ˜3 eq.) was added dropwise, causing the temperature of the reaction mixture to reach 60° C. The reaction mixture was allowed to cool to ambient temperature and was stirred for 3 h. Water (25 mL) was added with ice cooling. The mixture was extracted with ethyl acetate (2×100 mL). The combined organic phases were washed with water (2×), with saturated aqueous sodium bicarbonate solution and with brine, and dried over MgSO4. Concentration provided the title product as a clear oil (5.38 g).

reactant | 2,4,6-trifluorobenzeneacetic acid | 26.3 mmol, 5.00 g | FC1=C(C(=CC(=C1)F)F)CC(=O)O | C8H5F3O2
reactant | thionyl chloride | 6 mL, ˜3 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | Water | 25 mL | O | H2O
reactant | methanol | 25 mL | CO | CH4O
product | Methyl 2,4,6-trifluorobenzeneacetate | 5.38 g | FC1=C(C(=CC(=C1)F)F)CC(=O)OC | C9H7F3O2
